US07834051B2
To a solution of ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-3-hydroxyhexanoate (63.2 g) and 2,6-lutidine (47.6 mL) in tetrahydrofuran (800 mL) was added tert-butyldimethylsilane trifluoromethanesulfonate (70 mL) under ice-cooling and, after warming to room temperature, and the mixture was stirred for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/0→1/1) to give ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-3-(tert-butyldimethylsilyloxy)hexanoate as a colorless oil (yield: 64.0 g, 74%).

reactant | ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-3-hydroxyhexanoate | 63.2 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)O)CC | C16H23NO5
reactant | 2,6-lutidine | 47.6 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilane trifluoromethanesulfonate | 70 mL | FC(S(=O)(=O)O)(F)F.C(C)(C)(C)[SiH](C)C
reactant | Water | O | H2O
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
product | ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-3-(tert-butyldimethylsilyloxy)hexanoate | yield: 64.0 g, 74% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)O[Si](C)(C)C(C)(C)C)CC | C22H37NO5Si
